US08685969B2
1. Benzyl 3-cyano-2-fluorophenylcarbamate
To a light brown solution of 3-amino-2-fluorobenzonitrile (2.7141 g, 19.94 mmol) and potassium carbonate (4.13 g, 29.9 mmol) in THF (166 mL) was syringed benzyl carbonochloridate (4.49 mL, 29.9 mmol) under nitrogen, and the reaction was stirred overnight. The insoluble material was filtered, and the filtrate was concentrated in vacuo. The residue was dissolved in EtOAc (200 mL) and washed with 1 N aqueous HCl (50 mL), water (50 mL) and brine (50 mL), successively. The organic solution was dried over MgSO4 and concentrated in vacuo to give crude product which was stirred in hexanes (75 mL) for 1 hr. The insoluble material was filtered and washed with hexanes to give the desired product (4.4541 g, 16.48 mmol, 83% yield) as a light tan solid.

reactant | 3-amino-2-fluorobenzonitrile | 19.94 mmol, 2.7141 g | NC=1C(=C(C#N)C=CC1)F | C7H5FN2
reactant | potassium carbonate | 29.9 mmol, 4.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl carbonochloridate | 29.9 mmol, 4.49 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | THF | 166 mL | C1CCOC1 | C4H8O
product | Benzyl 3-cyano-2-fluorophenylcarbamate | 16.48 mmol, 4.4541 g, 83% yield | C(#N)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)F | C15H11FN2O2
